US05155100
A solution of 2-(dimethylphosphonomethylamino)-3-(4-biphenylyl)-propionic acid (2.27 g, 6.25 mmol), β-alanine t-butyl ester hydrochloride (1.36 g, 7.5 mmol), hydroxybenzotriazole (1.05 g, 6.85 mmol), triethylamine (2.41 mL, 17.3 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC, 1.6 g, 8.22 mmol) in dimethylformamide (60 mL) is stirred for 3 hours at room temperature, then diluted with ethyl acetate, washed with ice water, dried (Na2SO4) and chromatographed on silica gel [CH2Cl2 :MeOH:hexanes/76:4:20] to obtain t-butyl N-[2-(dimethylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionate.

reactant | 2-(dimethylphosphonomethylamino)-3-(4-biphenylyl)-propionic acid | 6.25 mmol, 2.27 g | COP(=O)(OC)CNC(C(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C18H22NO5P
reactant | β-alanine t-butyl ester hydrochloride | 7.5 mmol, 1.36 g | Cl.C(C)(C)(C)OC(CCN)=O
reactant | hydroxybenzotriazole | 6.85 mmol, 1.05 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | triethylamine | 17.3 mmol, 2.41 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 8.22 mmol, 1.6 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-butyl N-[2-(dimethylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionate | COP(=O)(OC)CNC(C(=O)NCCC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=CC=CC=C1 | C25H35N2O6P
